US09255110B2
A solution of lithium aluminum hydride (3.5 M in toluene, 0.1 mL) was added to a suspension of 3-(7-methoxy-quinolin-6-ylcarbamoyl)-thieno[3,2-b]pyridine-6-carboxylic acid ethyl ester (30 mg) in tetrahydrofuran (2 mL) and the resulting orange solution was stirred for 10 minutes. The reaction mixture was then quenched by addition of a saturated aqueous solution of ammonium chloride. The resulting mixture was filtered through a CELITE™ pad and the filter cake was washed with ethyl acetate. The filtrate was separated and the organic layer was dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The crude residue was purified by flash chromatography (DCM/MeOH, 97/3) to give 8 mg of 6-hydroxymethyl-thieno[3,2-b]pyridine-3-carboxylic acid (7-methoxy-quinolin-6-yl)-amide as an off-white solid. MS=365 [M+H]+.

reactant | lithium aluminum hydride | 3.5 M, 0.1 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(7-methoxy-quinolin-6-ylcarbamoyl)-thieno[3,2-b]pyridine-6-carboxylic acid ethyl ester | 30 mg | C(C)OC(=O)C=1C=C2C(=NC1)C(=CS2)C(NC=2C=C1C=CC=NC1=CC2OC)=O | C21H17N3O4S
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 6-hydroxymethyl-thieno[3,2-b]pyridine-3-carboxylic acid (7-methoxy-quinolin-6-yl)-amide | 8 mg | COC1=C(C=C2C=CC=NC2=C1)NC(=O)C1=CSC=2C1=NC=C(C2)CO | C19H15N3O3S
